US06303816B1
4-cyanophenylboronic acid
A solution of 10.0 g (54.9 mmol) of 4-bromobenzonitrile in 100 mL of tetrahydrofuran was cooled to −85° C. wherupon 36.0 mL (57.6 mmol) of 1.6 M solution of n-butyllithium in hexane was added. The mixture was stirred for five minutes and 19.0 mL (82.4 mmol) of triisopropylborate was added. The mixture was stirred at −85° C. for 30 minutes then warmed to ambient temperature over one hour. To the mixture was added 35 mL of 5 N hydrochloric acid and stirring was continued for 2.5 hours. The mixture was diluted with 100 mL of saturated aqueous sodium chloride and extracted three times with 100 mL each of ethyl ether. The combined organics were dried (MgSO4), filtered and concentrated in vacuo. The residue was recrystallized from water and filtered to afford 2.0 g (25%) of the title compound.

reactant | 4-bromobenzonitrile | 54.9 mmol, 10.0 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | n-butyllithium | C(CCC)[Li]
reactant | triisopropylborate | 82.4 mmol, 19.0 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 5 N, 35 mL | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | sodium chloride | 100 mL | [Cl-].[Na+]
product | 4-cyanophenylboronic acid | 2.0 g, 25% | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
